US09233946B2
7-Methoxy-3-methylbenzothiophene
A mixture of 2-methoxylthiophenol (915 mg, 6.5 mmol), chloroacetone (1.1 mL, 13.8 mmol) and K2CO3 (1.8 g, 13 mmol) in acetone (15 mL) was refluxed for 2 h. The mixture was filtered and the solvent evaporated. The crude product was dissolved in chlorobenzene (30 mL) and polyphosphoric acid (PPA, 0.5 g) was added (Plé et al., (1988) J. Heterocyclic Chem. 25, 1271-1272). The resulting mixture was heated at 100° C. over night, and then refluxed for 5 h. The solvent was decanted from the PPA-residue. The residue was then treated with CH2Cl2 and the combined organic extracts were washed with water and dried before the solvents were evaporated. The crude product was purified on silica using heptane as eluent, to give the title compound (620 mg, 53% yield over two steps). 1H NMR (400 MHz, CDCl3) δ ppm 2.43 (d, J=1.13 Hz, 3 H) 4.01 (s, 3 H) 6.77-6.83 (m, 1 H) 7.06 (qd, J=1.17, 0.53 Hz, 1 H) 7.32-7.39 (m, 2 H).

reactant | 2-methoxylthiophenol | 6.5 mmol, 915 mg | O(C)C1=C(C=CC=C1)S | C7H8OS
reactant | chloroacetone | 13.8 mmol, 1.1 mL | ClCC(C)=O | C3H5ClO
reactant | K2CO3 | 13 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 7-Methoxy-3-methylbenzothiophene | 620 mg, 53% yield | COC1=CC=CC=2C(=CSC21)C | C10H10OS
